US06852731B2
2-(methylamino)-1-(1 H-pyrazol-5-yl)ethanol dihydrochloride
A solution of 2-[methyl(trityl)amino]-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-5-yl)ethanol (0.7 g, 1.36 mmol) in 20 mL of MeOH was treated with a solution of 4N HCl in dioxane (20 mL) and refluxed overnight. After cooling to room temperature, the solvent was removed by evaporation in vacuum and the residue was suspended in EtOAc. The solid was collected by filtration and washed with hot EtOAc. A white solid 0.23 g was obtained after drying under vacuum.

reactant | 2-[methyl(trityl)amino]-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-5-yl)ethanol | 1.36 mmol, 0.7 g | CN(CC(O)C1=CC=NN1COCC[Si](C)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H39N3O2Si
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(methylamino)-1-(1 H-pyrazol-5-yl)ethanol dihydrochloride | 0.23 g | Cl.Cl.CNCC(O)C1=CC=NN1 | InChI=1S/C6H11N3O.2ClH/c1-7-4-6(10)5-2-3-8-9-5;;/h2-3,6-7,10H,4H2,1H3,(H,8,9);2*1H
